US04057647
A mixture of 20 g. of ethyl bromoacetate, 26.5 g. of 4-acetyl-3',4'-dichlorobiphenyl and 8 lg. of zinc foil is added to 100 ml. of benzene and the mixture is stirred and heated under reflux for one hour. It is cooled and dilute sulfuric acid is added to decompose the alcoholate obtained. The organic phase is separated off and, after the customary work up, 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester is obtained.

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | 4-acetyl-3',4'-dichlorobiphenyl | C(C)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)Cl | C14H10Cl2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | zinc | [Zn] | Zn
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C18H18Cl2O3
